* HSPICE file created from mux2x1_pcell.ext - technology: sky130A

.option scale=5m

.subckt mux2x1_pcell
X0 VSUBS m1_930_556 x1/a_0_0 VSUBS sky130_fd_pr__nfet_01v8 ad=2.39n pd=0.111m as=15.7n ps=0.599m w=602 l=30
X2 x3/a_223_1053 m1_1596_636 x1/a_0_0 VSUBS sky130_fd_pr__nfet_01v8 ad=2.39n pd=0.111m as=15.8n ps=0.594m w=602 l=30
X4 x5/w_n87_786 m1_930_556 x3/a_223_1053 x5/w_n87_786 sky130_fd_pr__pfet_01v8 ad=21.6n pd=0.908m as=11.6n ps=0.458m w=400 l=30
X6 x3/a_223_1053 m1_930_556 x5/w_n87_786 x5/w_n87_786 sky130_fd_pr__pfet_01v8 ad=11.6n pd=0.458m as=22.4n ps=0.912m w=400 l=30
X7 x5/w_n87_786 m1_1596_636 x3/a_223_1053 x5/w_n87_786 sky130_fd_pr__pfet_01v8 ad=0.246u pd=0.01 as=46.4n ps=1.83m w=400 l=30
X8 x3/a_223_1053 m1_1596_636 x5/w_n87_786 x5/w_n87_786 sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X9 m1_264_638 m1_116_560 VSUBS VSUBS sky130_fd_pr__nfet_01v8 ad=2.39n pd=0.111m as=15.6n ps=0.592m w=602 l=30
X10 x5/w_n87_786 m1_116_560 m1_264_638 x5/w_n87_786 sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=23.2n ps=0.917m w=400 l=30
X11 m1_264_638 m1_116_560 x5/w_n87_786 x5/w_n87_786 sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X12 VSUBS m1_116_560 x13/a_0_0 VSUBS sky130_fd_pr__nfet_01v8 ad=88.6n pd=3.77m as=77.2n ps=2.61m w=602 l=30
X14 m1_930_556 x15/a_362_382 x13/a_0_0 VSUBS sky130_fd_pr__nfet_01v8 ad=1p pd=-87u as=0 ps=0 w=602 l=30
X16 x5/w_n87_786 m1_116_560 m1_930_556 x5/w_n87_786 sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=46.4n ps=1.83m w=400 l=30
X17 m1_930_556 m1_116_560 x5/w_n87_786 x5/w_n87_786 sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X18 x5/w_n87_786 x15/a_362_382 m1_930_556 x5/w_n87_786 sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X19 m1_930_556 x15/a_362_382 x5/w_n87_786 x5/w_n87_786 sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X20 VSUBS m1_264_638 x21/a_0_0 VSUBS sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=77.2n ps=2.61m w=602 l=30
X22 m1_1596_636 x23/a_362_382 x21/a_0_0 VSUBS sky130_fd_pr__nfet_01v8 ad=7.16n pd=0.314m as=0 ps=0 w=602 l=30
X24 x5/w_n87_786 m1_264_638 m1_1596_636 x5/w_n87_786 sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=46.4n ps=1.83m w=400 l=30
X25 m1_1596_636 m1_264_638 x5/w_n87_786 x5/w_n87_786 sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X26 x5/w_n87_786 x23/a_362_382 m1_1596_636 x5/w_n87_786 sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X27 m1_1596_636 x23/a_362_382 x5/w_n87_786 x5/w_n87_786 sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
.ends

** hspice subcircuit dictionary
* x1	nand2x1_pcell_2/nmos_bottom_0
* x3	nand2x1_pcell_2
* x5	invx1_pcell_0
* x13	nand2x1_pcell_0/nmos_bottom_0
* x15	nand2x1_pcell_0
* x21	nand2x1_pcell_1/nmos_bottom_0
* x23	nand2x1_pcell_1
