* HSPICE file created from nand2x1_pcell.ext - technology: sky130A

.option scale=5m

.subckt nand2x1_pcell
X0 x1/VSUBS a_168_375 x2/a_0_0 x1/VSUBS sky130_fd_pr__nfet_01v8 ad=2.39n pd=0.111m as=15.7n ps=0.599m w=602 l=30
X3 a_223_1053 a_362_382 x2/a_0_0 x1/VSUBS sky130_fd_pr__nfet_01v8 ad=2.39n pd=0.111m as=15.8n ps=0.594m w=602 l=30
X4 w_87_786 a_168_375 a_223_1053 w_87_786 sky130_fd_pr__pfet_01v8 ad=21.6n pd=0.908m as=11.6n ps=0.458m w=400 l=30
X5 a_223_1053 a_168_375 w_87_786 w_87_786 sky130_fd_pr__pfet_01v8 ad=11.6n pd=0.458m as=22.4n ps=0.912m w=400 l=30
X6 w_87_786 a_362_382 a_223_1053 w_87_786 sky130_fd_pr__pfet_01v8 ad=67.2n pd=2.74m as=46.4n ps=1.83m w=400 l=30
X7 a_223_1053 a_362_382 w_87_786 w_87_786 sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
.ends

** hspice subcircuit dictionary
* x1	pmos2_1
* x2	nmos_bottom_0
